US03959322
13β-Ethyl-3-methoxy-17,17-ethylenedioxygona-1,3,5(10),8tetraene
Hydrogenate 13β-ethyl-3-methoxy-17,17-ethylenedioxygona-1,3,5(10), 8,14-pentaene (2.0 g.) in benzene 70 cc.) at atmospheric pressure using a 5% palladium on calcium carbonate catalyst (0.70 g.). Uptake of hydrogen ceases after 150 cc. has been absorbed. Isolate the product and recrystallize from 95% ethanol to obtain the title product (1.3 g.), m.p. 135°-137°; ultraviolet absorption peak at 2.78 mμ (15,100).

reactant | 13β-ethyl-3-methoxy-17,17-ethylenedioxygona-1,3,5(10), 8,14-pentaene | 2.0 g | C(C)[C@]12C3(CC=C2C2=C(CC1)C=1C=CC(=CC1CC2)OC)OCCO3 | C22H26O3
reactant | hydrogen | [H][H] | H2
solvent | benzene | 70 cc | C1=CC=CC=C1 | C6H6
catalyst | palladium on calcium carbonate | 0.70 g | [Pd] | Pd
product | 13β-Ethyl-3-methoxy-17,17-ethylenedioxygona-1,3,5(10),8tetraene | 1.3 g | C(C)[C@]12C3(CC[C@H]2C2=C(CC1)C=1C=CC(=CC1CC2)OC)OCCO3 | C22H28O3
